US08466186B2
(b) 4-(5-Aza-spiro[2.4]hept-5-yl)-5-chloro-benzene-1,2-diamine
A mixture of 5-(5-aza-spiro[2.4]hept-5-yl)-4-chloro-2-nitro-phenylamine (550 mg, 2.1 mmol), EtOAc (20 mL) and Ra—Ni (150 mg) was stirred for 21 h at RT under a hydrogen atmosphere (3 bar). After addition of further catalyst the hydrogenation was continued at rt for 7 h. The catalyst was removed by filtration. The filtrate was acidified with 1.25 M HCl in EtOH (6 mL) and concentrated to give the sub-title compound.

reactant | 5-(5-aza-spiro[2.4]hept-5-yl)-4-chloro-2-nitro-phenylamine | 2.1 mmol, 550 mg | C1CC12CN(CC2)C=2C(=CC(=C(C2)N)[N+](=O)[O-])Cl | C12H14ClN3O2
catalyst | Ra—Ni | 150 mg | [Ni] | Ni
solvent | EtOAc | 20 mL | CCOC(=O)C | C4H8O2
product | 4-(5-Aza-spiro[2.4]hept-5-yl)-5-chloro-benzene-1,2-diamine | C1CC12CN(CC2)C=2C=C(C(=CC2Cl)N)N | C12H16ClN3
